US07119115B2
A solution of 0.35 g of the E isomer of cyclopropyl(6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazol-3-yl)methanone oxime in 10 cm3 of tetrahydrofuran is added dropwise to a suspension of 0.036 g of sodium hydride (at 60% in oil) in 7 cm3 of tetrahydrofuran. After stirring the reaction mixture for about 2 hours in the region of 20° C., a solution of 0.16 g of 1-bromo-2-methoxyethane in 5 cm3 of tetrahydrofuran is poured into the solution obtained. After stirring in the region of 20° C. for about two and a half hours, 5 cm3 of water are added and the solution is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up in 20 cm3 of water and extracted with three times 40 cm3 of dichloromethane. The organic phases are combined, dried over magnesium sulphate, filtered and concentrated. After flash chromatography on a column of silica [eluent: dichloromethane/ethyl acetate (99/1 by volume)], 0.32 g of the E isomer of cyclopropyl(6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazol-3-yl)methanone O-(2-methoxyethyl)oxime is thus obtained in the form of a resin, the characteristics of which are as follows:

reactant | cyclopropyl(6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazol-3-yl)methanone oxime | C1(CC1)C(=NO)C1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C | C29H35N3O2Si
reactant | sodium hydride | 0.036 g | [H-].[Na+]
reactant | 1-bromo-2-methoxyethane | 0.16 g | BrCCOC | C3H7BrO
reactant | water | 5 cm3 | O | H2O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
product | cyclopropyl(6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazol-3-yl)methanone O-(2-methoxyethyl)oxime | COCCON=C(C1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C)C1CC1 | C32H41N3O3Si
